US07704995B2
5-bromo-N-(phenylmethyl)pyridine-3-carboxamide was synthesized according to the procedure described above from 5-bromonicotinic acid and benzylamine. Yield 90%. 1H NMR (400 MHz, CDCl3): 8.83 (d, 1H), 8.72 (d, 1H), 8.25 (t, 1H), 7.30 (m, 5H), 6.58 (br s, 1H), 4.62 (d, 2H); MS (EI) for C13H11N2OBr: 291 (MH+).

reactant | 5-bromonicotinic acid | BrC=1C=NC=C(C(=O)O)C1 | C6H4BrNO2
reactant | benzylamine | C(C1=CC=CC=C1)N | C7H9N
product | 5-bromo-N-(phenylmethyl)pyridine-3-carboxamide | Yield 90% | BrC=1C=C(C=NC1)C(=O)NCC1=CC=CC=C1 | C13H11BrN2O
